US05273986
A mixture of 0.13 g of (E)-3-[2-[2-cyclobutyl-4-thiazolyl]ethenyl]phenylamine, 0.094 g of homophthalic anhydride and 10 ml of toluene was heated on a steam bath for 1 hr and then allowed to cool to room temperature. Filtration of the reaction mixture yielded 0.1 g of (E)-2-[2-[3-[2-(2-cyclobutyl-4-thiazolyl)ethenyl]phenylamino]-2-oxoethyl]benzoic acid; m.p. 198°-199° C. from acetonitrile.

reactant | (E)-3-[2-[2-cyclobutyl-4-thiazolyl]ethenyl]phenylamine | 0.13 g | C1(CCC1)C=1SC=C(N1)/C=C/C=1C=C(C=CC1)N | C15H16N2S
reactant | homophthalic anhydride | 0.094 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[2-[3-[2-(2-cyclobutyl-4-thiazolyl)ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 0.1 g | C1(CCC1)C=1SC=C(N1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | C24H22N2O3S
